US07528155B2
1H-Indazol-3-yl 4-methylpiperidine-1-carboxylate
300 mg (2.24 mmol) of 1H-indazol-3-ol were dissolved in 25 ml of THF and cooled to −20° C.: 1.3 ml (2.46 mmol) of phosgene in toluene (20 percent) were added dropwise and the reaction mixture was stirred for 90 min, during which it warmed to room temperature. The reaction mixture was concentrated and evacuated once again with a few ml of toluene. The residue was dissolved in 15 ml of THF, 265 μl (2.2 mmol) of 4-methylpiperidine were added dropwise and the mixture was stirred at room temperature for 3 h, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 347 mg (60%), M+H+: 260.4.

reactant | 1H-indazol-3-ol | 2.24 mmol, 300 mg | N1N=C(C2=CC=CC=C12)O | C7H6N2O
reactant | phosgene | 2.46 mmol, 1.3 ml | C(=O)(Cl)Cl | CCl2O
reactant | 4-methylpiperidine | 2.2 mmol, 265 μl | CC1CCNCC1 | C6H13N
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | toluene | ml | C1(=CC=CC=C1)C | C7H8
product | 1H-Indazol-3-yl 4-methylpiperidine-1-carboxylate | CC1CCN(CC1)C(=O)OC1=NNC2=CC=CC=C12 | C14H17N3O2
